US03962182
N-2-Hydroxyethyl succinimide was prepared by reacting 49.5g (0.5 mole) of succinimide with 26.5g (0.60 mole) of ethylene oxide in the presence of 0.49g (1%) of active chromium III tri-2-ethylhexanoate and 400 ml of methylisobutyl ketone for 2 hours at 160° to 165°C in an autoclave. N-2-Hydroxyethyl succinimide was obtained by filtration in 87.5% yield. The reaction did not proceed in the absence of COT.

reactant | succinimide | 0.5 mole, 49.5g | C1(CCC(N1)=O)=O | C4H5NO2
reactant | ethylene oxide | 0.60 mole, 26.5g | C1CO1 | C2H4O
catalyst | chromium | 0.49g | [Cr] | Cr
solvent | methylisobutyl ketone | 400 ml | CC(=O)CC(C)C | C6H12O
product | N-2-Hydroxyethyl succinimide | OCCN1C(CCC1=O)=O | C6H9NO3
